US06252082B1
Methyl 6-methyl-3-nitro-2-oxo-4-phenoxy-1,2-dihydropyridine-1-acetate
1.38 g (14.7 mmol) of phenol in solution in 20 ml of tetrahydrofuran are added dropwise to a suspension of 0.58 g (14.5 mmol) of sodium hydride in tetrahydrofuran. The mixture is left for 0.5 hour at room temperature, it is cooled to −70° C. and 5.24 g (14 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(tri fluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate in solution in 20 ml of tetrahydrofuran are added dropwise. The temperature of the reaction medium is allowed to return to 0° C. and the medium is stirred at this temperature for 1 hour. The mixture is poured over 20 ml of a 1 N aqueous hydrochloric acid solution and extracted with twice 200 ml of dichloromethane. The medium is washed with 100 ml of a saturated sodium chloride solution, dried over magnesium sulphate and evaporated. The product is recrystallized from methanol.

reactant | phenol | 14.7 mmol, 1.38 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 14.5 mmol, 0.58 g | [H-].[Na+]
reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(tri fluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 14 mmol, 5.24 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 6-methyl-3-nitro-2-oxo-4-phenoxy-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OC1=CC=CC=C1 | C15H14N2O6
